US09108939B2
B: tert-Butyl 4-(3-fluoro-4-nitrobenzylidene)piperidine-1-carboxylate
tert-Butyl 4-oxopiperidine-1-carboxylate (126 mmol, 25.04 g) and diethyl 3-fluoro-4-nitrobenzylphosphonate (126 mmol, 36.6 g) in tetrahydrofuran (220 mL) were stirred and sodium hydride (163 mmol, 6.54 g, 60% in oil) was added. The reaction was stirred for 4 hours and then water was added. The reaction was extracted with dichloromethane and the organics were dried (magnesium sulfate), filtered and concentrated under reduced pressure. The residue was purified by silica column chromatography eluting with dichloromethane to give a bright yellow solid. This solid was filtered, washed with heptane and vacuum dried to afford the title compound (27.47 g). 1H NMR (CDCl3, 400 MHz): δ 8.1 (t, 1H), 7.1 (s, 1H), 7.05 (s, 1H), 6.35 (s, 1H), 3.55 (m, 2H), 3.45 (m, 2H), 2.52 (m, 2H), 2.4 (m, 2H), 1.49 (s, 9H)

reactant | tert-Butyl 4-oxopiperidine-1-carboxylate | 126 mmol, 25.04 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | diethyl 3-fluoro-4-nitrobenzylphosphonate | 126 mmol, 36.6 g | FC=1C=C(CP(OCC)(OCC)=O)C=CC1[N+](=O)[O-] | C11H15FNO5P
reactant | sodium hydride | 163 mmol, 6.54 g | [H-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 220 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-(3-fluoro-4-nitrobenzylidene)piperidine-1-carboxylate | 27.47 g | FC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1[N+](=O)[O-] | C17H21FN2O4
